US05840732
v) Synthesis of 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.07 g (3.10 mmol) of 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.30 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.16 g (97.9%, light orange foamy substance) of the desired product.

reactant | 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione | 3.10 mmol, 1.07 g | C(CCC)=C1C(N(C(S1)=O)CCCOC=1C=2N(C=CC1)C=CN2)=O | C17H19N3O3S
reactant | hydrochloric acid | 0.30 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-8-yloxy)propyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C17H19N3O3S.ClH/c1-2-3-7-14-16(21)20(17(22)24-14)10-5-12-23-13-6-4-9-19-11-8-18-15(13)19;/h4,6-9,11H,2-3,5,10,12H2,1H3;1H
